US07091215B2
tert-Butyl N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate (50 mg) was dissolved in a 4 N hydrochloric acid/ethyl acetate solution (2 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was neutralized with 5 N aqueous sodium hydroxide and extracted with ethyl acetate, and the organic layer was concentrated to obtain 7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridine-3-amine. This was dissolved in tetrahydrofuran (1 mL), and after adding propionaldehyde (0.078 mL) and 3 M aqueous sulfuric acid (0.363 mL), sodium borohydride (27 mg) was added in five portions at a time while vigorously stirring on ice, and stirring was continued for 30 minutes. After adding saturated aqueous sodium hydrogencarbonate to neutralize the reaction mixture, extraction was performed with ethyl acetate and the organic layer was concentrated. The residue was purified by silica gel column chromatography, and the title compound (20.6 mg) was obtained from the n-hexane:ethyl acetate (7:1) fraction as a light yellow oil.

reactant | tert-Butyl N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | 50 mg | COC1=C(C(=CC(=C1)C)C)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)SC | C22H27N3O3S
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | hydrochloric acid ethyl acetate | 4 N, 2 mL | Cl.C(C)(=O)OCC
product | 7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridine-3-amine | COC1=C(C(=CC(=C1)C)C)C1=CC=CC=2N1N=C(C2N)SC | C17H19N3OS
